US05187161
In 400 ml of N,N-dimethylformamide (DMF) was suspended 60.7 g of 60% sodium hydride followed by dropwise addition of a solution of 7-(1,1-dimethylethyl)-5-methoxy-2(3H)-benzofuranone (160 g) in DMF (1000 ml) at a temperature not exceeding 50° C. and the mixture was stirred for 30 minutes. Then, a solution of iodomethane (230 g) in DMF (100 ml) was added and the mixture was stirred at ambient temperature for 3 hours. The reaction mixture was poured in water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated. The resultant crude product was purified by silica gel column chromatography ( ethyl acetate-hexane =1:10) and washed with cold hexane to give 104 g of 3,3-dimethyl-7-(1,1-dimethylethyl)-5-methoxy-2(3H)-benzofuranone as a light yellow solid.

reactant | sodium hydride | 60.7 g | [H-].[Na+]
reactant | 7-(1,1-dimethylethyl)-5-methoxy-2(3H)-benzofuranone | 160 g | CC(C)(C)C1=CC(=CC=2CC(OC21)=O)OC | C13H16O3
reactant | iodomethane | 230 g | IC | CH3I
reactant | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
reactant | DMF | 1000 ml | CN(C=O)C | C3H7NO
reactant | DMF | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,3-dimethyl-7-(1,1-dimethylethyl)-5-methoxy-2(3H)-benzofuranone | 104 g | CC1(C(OC2=C1C=C(C=C2C(C)(C)C)OC)=O)C | C15H20O3
